US05773530
To a solution of 1-methoxycarbonylmethoxy-5-oxo-5,6,7,8-tetrahydronaphthalene (0.5 g) in dry dichloromethane (3 ml) was added bromine (0.14 ml) at 0° C. The mixture was warmed up to room temperature, stirred for 2 hours. The mixture was washed with an aqueous saturated sodium bicarbonate, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (30 ml) using a mixture of dichloromethane--n-hexane. The desired fractions were collected and evaporated in vacuo to give 1-methoxycarbonylmethoxy-5-oxo-6-bromo-5,6,7,8-tetrahydronaphthalene (0.41 g). The crude crystal (50 mg) was recrystallized from ethyl acetate--n-hexane to give 31 mg as a white crystal.

reactant | 1-methoxycarbonylmethoxy-5-oxo-5,6,7,8-tetrahydronaphthalene | 0.5 g | COC(=O)COC1=CC=CC=2C(CCCC12)=O | C13H14O4
reactant | bromine | 0.14 ml | BrBr | Br2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 1-methoxycarbonylmethoxy-5-oxo-6-bromo-5,6,7,8-tetrahydronaphthalene | 0.41 g | COC(=O)COC1=CC=CC=2C(C(CCC12)Br)=O | C13H13BrO4
